US07253286B2
N-(6-(4-Nitrophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine
4-Chloro-6-(4-nitrophenoxy)pyrimidine (2.33 g, 9.25 mmol), 4-(methylthio)aniline (1.29 g, 9.25 mmol) and diisopropylethylamine (1.79 g, 13.9 mmol) were heated and stirred in 1-methylpyrrolidone (10 ml) at 80° C. for 18 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=1:3), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (620 mg, 1.75 mmol, 19%) as colorless crystals.

reactant | 4-Chloro-6-(4-nitrophenoxy)pyrimidine | 9.25 mmol, 2.33 g | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | 4-(methylthio)aniline | 9.25 mmol, 1.29 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | diisopropylethylamine | 13.9 mmol, 1.79 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(6-(4-Nitrophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine | 1.75 mmol, 620 mg, 19% | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=N2)NC2=CC=C(C=C2)SC)C=C1 | C17H14N4O3S
